US07850872B2
As shown in the following Reaction 9, 100 mg (0.42 mmol) of 2-(4-bromo-phenyl)-thiophene synthesized in C of Example 1-2 was melted in 5 mL of n-phentanol, and 130 mg (0.84 mmol, 2 eq) of sodium iodide and 0.004 mL (0.042 mmol, 10 mol %) of 1,3-diaminopropane was added thereto, and then the reaction solution was refluxed for 18 hours at temperature of 130° C. Next, the reaction solution was washed with aqueous ammonia, and was dehydrated with magnesium sulfate, filtered, and then distilled under reduced pressure. The compound distilled under reduced pressure was purified with a column chromatography (mobile phase: n-hexane) to obtain 100 mg of 2-(4-iodo-phenyl)-thiophene with the yield of 83.3%. NMR data of the obtained compound is as follows. [1H NMR (400 MHz, CDCl3): δ 7.52 (m, 4H), 7.33 (d, 2H), 7.10 (t, 1H)].

reactant | 2-(4-bromo-phenyl)-thiophene | 0.42 mmol, 100 mg | BrC1=CC=C(C=C1)C=1SC=CC1 | C10H7BrS
reactant | sodium iodide | 0.84 mmol, 130 mg, 2 eq | [I-].[Na+]
reactant | 1,3-diaminopropane | 0.042 mmol, 0.004 mL | NCCCN | C3H10N2
product | 2-(4-iodo-phenyl)-thiophene | 100 mg, yield of 83.3% | IC1=CC=C(C=C1)C=1SC=CC1 | C10H7IS
